US07473786B1
2,5-Diphenyl-benzo[b]furan (entry 3, Table 3):
The general procedure was used to convert phenylacetylene and 4-phenyl-2-iodophenol to the title product. Purification by flash chromatography (10% CH2Cl2 in hexanes as the eluent) gave the analytically pure product as a white solid (427 mg, 79% yield). 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=7.53, 2H), 7.78-7.75 (m, 1H), 7.67-7.33 (m, 10H), 7.07 (s, 1H). 13C NMR (75 MHz, CDCl3) δ 156.56, 154.49, 141.63, 136.61, 130.37, 129.74, 128.79, 128.73, 128.62, 127.41, 126.86, 124.93, 123.98, 119.36, 111.25, 101.45. Anal. Calcd. For C20H14O: C, 88.86; H, 5.22. Found C, 88.99; H, 5.28. m.p.: 166-167° C. (lit., 8166-168° C.).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-phenyl-2-iodophenol | C1(=CC=CC=C1)C1=CC(=C(C=C1)O)I | C12H9IO
product | 2,5-Diphenyl-benzo[b]furan | C1(=CC=CC=C1)C1=CC2=C(O1)C=CC(=C2)C2=CC=CC=C2 | C20H14O
